2127-03-23 09:49:00 Physician Attending Progress Note
Chief Complaint: Anemia--Secondary to Blood Loss
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Transfusion x2 overnight complicated by transfusion reaction with
   first unit given.
   -Platelets given as well (1 bag)
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2127-3-23**] 04:25 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2127-3-23**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, low grade and with transfusion given
   Flowsheet Data as of  [**2127-3-23**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 71 (69 - 101) bpm
   BP: 102/66(75) {78/43(51) - 143/99(107)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    770 mL
                                                                  1,937 mL
   PO:
                                                                    360 mL
           TF:
   IVF:
                                                                     60 mL
                                                                  1,325 mL
   Blood products:
                                                                    350 mL
                                                                    612 mL
   Total out:
                                                                    825 mL
                                                                  1,905 mL
   Urine:
                                                                    825 mL
                                                                  1,905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -55 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   196 K/uL
   258 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.6 mEq/L
   12 mg/dL
   107 mEq/L
   139 mEq/L
   26.8 %
   6.1 K/uL
         [image002.jpg]
                             [**2127-3-22**]  06:05 PM
                             [**2127-3-22**]  08:25 PM
                             [**2127-3-23**]  01:51 AM
                             [**2127-3-23**]  08:08 AM
   WBC
   10.0
   13.6
   6.1
   Hct
   28.5
   25.5
   26.4
   26.8
   Plt
   [**Telephone/Fax (3) 11961**]
   Cr
   0.4
   Glucose
   258
   Other labs: PT / PTT / INR:12.5//1.1, Differential-Neuts:83.4 %,
   Lymph:12.2 %, Mono:3.7 %, Eos:0.6 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.8 mg/dL
   Fluid analysis / Other labs: AG-11
   Assessment and Plan
   65 yo female with admission with uretral bleeding in the setting of
   local mass lesion.  Now, while at home had substantial bleeding seen
   with local Rx required in ED by urology team who also placed foley.
   MRI was completed and bleeding remained improved but with HCT drop
   patient to ICU for further care with concern for significant risk of
   ongoing bleeding from urethral mass.
    ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)-
   -This is secondary to urethral mass
   -3 units of blood given and one additional now being given
   -HCT goal is >24 at minimum and will continue to consider goal HCT
   given planning for OR intervention
   -HCt q 6 hours today and when stable will go to [**Hospital1 **]
   -IVF as needed
   URETHRAL MASS-
   -MRI completed
   -Will need treatment planning per urology team
   -Cefazolin to continue
   ICU Care
   Nutrition: NPO now given possible operative procedure
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2127-3-22**] 07:13 PM
   18 Gauge - [**2127-3-22**] 07:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU--Transfer to floor
only with stable HCT and with
   urology in agreement
   Total time spent: 35 minutes

2127-03-24 11:09:00 Physician Attending Progress Note
Chief Complaint: Anemia Secondary to Blood Loss
   Urethral Mass
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   Transfused to relative stability with HCT at this time
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2127-3-24**] 03:23 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2127-3-24**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 80 (52 - 80) bpm
   BP: 129/63(80) {96/46(60) - 129/70(84)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,310 mL
                                                                  1,757 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  3,155 mL
                                                                  1,757 mL
   Blood products:
                                                                    795 mL
   Total out:
                                                                  4,705 mL
                                                                  1,440 mL
   Urine:
                                                                  4,705 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -395 mL
                                                                    317 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, limited capacity
   with language barrier but patient interactive an appropriate
   Labs / Radiology
   10.9 g/dL
   163 K/uL
   96 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.3 mEq/L
   7 mg/dL
   108 mEq/L
   143 mEq/L
   31.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2127-3-22**]  06:05 PM
                             [**2127-3-22**]  08:25 PM
                             [**2127-3-23**]  01:51 AM
                             [**2127-3-23**]  08:08 AM
                             [**2127-3-23**]  01:35 PM
                             [**2127-3-23**]  06:30 PM
                             [**2127-3-24**]  01:40 AM
   WBC
   10.0
   13.6
   6.1
   6.3
   Hct
   28.5
   25.5
   26.4
   26.8
   28.7
   32.4
   31.0
   Plt
   [**Telephone/Fax (3) 11977**]63
   Cr
   0.4
   0.5
   Glucose
   258
   411
   96
   Other labs: PT / PTT / INR:12.5/26.2/1.1, Differential-Neuts:83.4 %,
   Lymph:12.2 %, Mono:3.7 %, Eos:0.6 %, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   Patient with substantial and significant blood loss from urethral mass
   with signifiant transfusion requirement now with reasonable stability
   of bleeding and awaiting patient operative intervention for surgery
   given need for planning based upon findings on MRI for extent of
   invasion and involvement.
   1) ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)-
   -HCT at goal of 31 with reasonable stability noted
   -No further acute active bleeding seen
   2)Urethral Tumor-
   -Surgical planning per Urology team for intervention--preliminarily for
   [**3-25**]
   -Cefazolin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-3-23**] 03:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes